US07312222B2
Step B. Preparation of (+/−)-N-(t-butoxycarbonyl)-3-(hydroxymethyl)-3-(phenylmethyl)-piperidine.
To a stirring solution (+/−)-N-(t-butoxycarbonyl)-3-(carboethoxy)-3-(phenylmethyl)-piperidine (200 mg, 0.58 mmol) in dry toluene (20 mL) at −78° C. was added a 1.5 M solution of diisobutylaluminium hydride in toluene (2.0 mL). After 6 h, the reaction was warmed to room temperature and quenched by the addition of 1M HCl (50 mL). The reaction was extracted with EtOAc (4×40 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and conc. in vacuo to an oil. The oil was purified by flash chromatography (SiO2, 7–20% EtOAc in hexanes) to yield 86 mg of the product as a colorless oil. MS (ESI) 306 (M+H).

reactant | (+/−)-N-(t-butoxycarbonyl)-3-(carboethoxy)-3-(phenylmethyl)-piperidine | 0.58 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)(CC1=CC=CC=C1)C(=O)OCC | C20H29NO4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | (+/−)-N-(t-butoxycarbonyl)-3-(hydroxymethyl)-3-(phenylmethyl)-piperidine | 86 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)(CC1=CC=CC=C1)CO | C18H27NO3
